US04705802
Ethyl 5-[5-(3-phenylpropyl)-thien-2-yl]-valerate.
3 g of 5-[5-(3-phenylpropyl)-thien-2-yl]-valeric acid are dissolved in 10 ml of ethanol and the solution is saturated with HCl gas. The solution is stirred at room temperature for 24 hours and concentrated in vacuo. Purification by column chromatography (silica gel/hexane/ethyl acetate).

reactant | 5-[5-(3-phenylpropyl)-thien-2-yl]-valeric acid | 3 g | C1(=CC=CC=C1)CCCC1=CC=C(S1)CCCCC(=O)O | C18H22O2S
reactant | HCl | Cl | ClH
reactant | ethanol | 10 ml | C(C)O | C2H6O
product | Ethyl 5-[5-(3-phenylpropyl)-thien-2-yl]-valerate | C1(=CC=CC=C1)CCCC1=CC=C(S1)CCCCC(=O)OCC | C20H26O2S
